US04424351
3-Methyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride is reacted with propionic anhydride as described in Example 1, and the resulting salt is treated with an aqueous solution of potassium hydroxide. 3-Methyl-1-propionyl-1,4-dihydropyrido[3,4-e]-as-triazine is obtained with a yield of 81%; m.p.: 253°-254° C.

reactant | 3-Methyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride | Cl.CC1=NNC2=C(N1)C=NC=C2
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | potassium hydroxide | [OH-].[K+]
product | 3-Methyl-1-propionyl-1,4-dihydropyrido[3,4-e]-as-triazine | yield of 81% | CC1=NN(C2=C(N1)C=NC=C2)C(CC)=O | C10H12N4O
